US07179912B2
5-(4-Methyl-piperazin-1-yl)-2-nitro-phenylamine
A mixture of 5-chloro-2-nitrophenylamine (2.5 g, 14 mmol), 1-methylpiperizine (3.2 mL, 30 mmol), and potassium carbonate (K2CO3) (2.0 g, 14 mmol) in dimethylformamide (DMF) (20 mL) was stirred at 120° C. for 18 h. The reaction mixture was cooled to room temperature and poured into water (150 mL). The precipitated crude product was collected by filtration, dried in vacuo, and purified by recrystallization from ethyl acetate (EtOAc) (75 mL) to yield yellow-green crystals (1.8 g, 54%). See, J. Med. Chem., 39:997 (1996).

reactant | 5-chloro-2-nitrophenylamine | 14 mmol, 2.5 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1-methylpiperizine | 30 mmol, 3.2 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 14 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-(4-Methyl-piperazin-1-yl)-2-nitro-phenylamine | 1.8 g, 54% | CN1CCN(CC1)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C11H16N4O2
